US05294718
A solution of 5 g of 5-chloro-2-nitrobenzaldehyde dimethylacetal and 8.8 g of 4-hydroxypiperidine in 20 ml of N,N-dimethylformamide was heated at 80 ° C. for 14 hr. The reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water, dried, and evaporated under a reduced pressure. The residue was purified by a silica gel column chromatography to give 4.3 g of 5-(4-hydroxypiperidino)-2-nitrobenzaldehyde dimethylacetal.

reactant | 5-chloro-2-nitrobenzaldehyde dimethylacetal | 5 g | COC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])OC | C9H10ClNO4
reactant | 4-hydroxypiperidine | 8.8 g | OC1CCNCC1 | C5H11NO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-(4-hydroxypiperidino)-2-nitrobenzaldehyde dimethylacetal | 4.3 g | COC(C1=C(C=CC(=C1)N1CCC(CC1)O)[N+](=O)[O-])OC | C14H20N2O5
